US07709680B2
di-1-Adamantyl-n-butylphosphine was procured from Strem, 77672 Kehl, Germany; 1-adamantyldi-n-butylphosphine was prepared from adamantylmagnesium bromide (J. Org. Chem. 47 1982 4120-4128) and chlorodi-n-butylphosphine (from Aldrich, 82018 Taufkirchen, Germany).

reactant | di-1-Adamantyl-n-butylphosphine | C12(CC3CC(CC(C1)C3)C2)P(CCCC)C23CC1CC(CC(C2)C1)C3 | C24H39P
reactant | adamantylmagnesium bromide | C12(CC3CC(CC(C1)C3)C2)[Mg]Br
reactant | chlorodi-n-butylphosphine | ClP(CCCC)CCCC | C8H18ClP
product | 1-adamantyldi-n-butylphosphine | C12(CC3CC(CC(C1)C3)C2)P(CCCC)CCCC | C18H33P
